US04511724
A solution of 0.2 g of 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]-pyrrole-1-carboxylic acid in 20 ml chloroform and a few drops of dimethylsulfoxide was treated with 0.1 g of m-chloroperbenzoic acid (MCPBA) and stirred overnight. Hexane was then added carefully, and the mixture was cooled and the resulting yellow crystals was collected by filtration to give 195 mg of 5-(1-methyl-5-methylsulfinyl-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]pyrrole-1-carboxylic acid. m/e 334.

reactant | 5-(1-methyl-5-methylthio-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]-pyrrole-1-carboxylic acid | 0.2 g | CN1C(=CC=C1SC)C(=O)C1=C(C=C2N1CCC2C(=O)O)C | C16H18N2O3S
reactant | m-chloroperbenzoic acid | 0.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Hexane | CCCCCC | C6H14
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | dimethylsulfoxide | a few drops | CS(=O)C | C2H6OS
product | 5-(1-methyl-5-methylsulfinyl-2-pyrroyl)-1,2-dihydro-6-methyl-3H-pyrrolo-[1,2-a]pyrrole-1-carboxylic acid | 195 mg | CN1C(=CC=C1S(=O)C)C(=O)C1=C(C=C2N1CCC2C(=O)O)C | C16H18N2O4S
